US08114886B2
5-[(2,5-Difluorophenyl)[[5-(trifluoromethyl)pyridin-2-yl]sulfonyl]methyl]-N-(2-hydroxyethyl)-4-methylpyridine-2-carboxamide
To a solution of 5-[(2,5-difluorophenyl)[[5-(trifluoromethyl)pyridin-2-yl]sulfonyl]methyl]-4-methylpyridine-2-carboxylic acid (118 mg, 0.25 mmol) in methylene chloride (3 ml), 2-aminoethanol (0.017 ml, 0.28 mmol), 1-hydroxybenzotriazole (37 mg, 0.28 mmol), 4-methylmorpholine (0.030 ml, 0.28 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (53 mg, 0.28 mmol) were added at room temperature. After stirring for 5 hours at room temperature, the reaction mixture was washed with water and then with saturated brine. The organic layer was dried over anhydrous sodium sulfate and filtered, then the filtrate was concentrated under reduced pressure, and the obtained residue was subjected to flash silica gel chromatography. The fraction obtained from an elution with hexane:ethyl acetate=1:1 was concentrated under reduced pressure, and the resulting residue was washed with hexane, and was dried under reduced pressure to obtain the title compound (91 mg, 0.18 mmol, 71%) as a colorless foamy substance.

reactant | 5-[(2,5-difluorophenyl)[[5-(trifluoromethyl)pyridin-2-yl]sulfonyl]methyl]-4-methylpyridine-2-carboxylic acid | 0.25 mmol, 118 mg | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)O)C)S(=O)(=O)C1=NC=C(C=C1)C(F)(F)F | C20H13F5N2O4S
reactant | 2-aminoethanol | 0.28 mmol, 0.017 ml | NCCO | C2H7NO
reactant | 1-hydroxybenzotriazole | 0.28 mmol, 37 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 0.28 mmol, 0.030 ml | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.28 mmol, 53 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 5-[(2,5-Difluorophenyl)[[5-(trifluoromethyl)pyridin-2-yl]sulfonyl]methyl]-N-(2-hydroxyethyl)-4-methylpyridine-2-carboxamide | 0.18 mmol, 91 mg, 71% | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)NCCO)C)S(=O)(=O)C1=NC=C(C=C1)C(F)(F)F | C22H18F5N3O4S
